US08211904B2
Step 2: 2,2-dimethyl-1,2,3,4-tetrahydroquinoline-8-carboxylic acid
To a solution of methyl 2,2-dimethyl-1,2,3,4-tetrahydroquinoline-8-carboxylate (0.138 g, 0.629 mmol) in THF (5 mL) and H2O (5 mL) was added a 1N aqueous solution of sodium hydroxide (1.88 mL, 1.88 mmol). After stirring at 50° C. overnight the reaction mixture was acidified to pH 2 using 1N aqueous HCl, extracted with ethyl acetate (three times), dried over MgSO4 and concentrated under vacuum to afford the desired compound that was used without further purification.

reactant | methyl 2,2-dimethyl-1,2,3,4-tetrahydroquinoline-8-carboxylate | 0.629 mmol, 0.138 g | CC1(NC2=C(C=CC=C2CC1)C(=O)OC)C | C13H17NO2
reactant | sodium hydroxide | 1.88 mmol, 1.88 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | 5 mL | O | H2O
product | 2,2-dimethyl-1,2,3,4-tetrahydroquinoline-8-carboxylic acid | CC1(NC2=C(C=CC=C2CC1)C(=O)O)C | C12H15NO2
